### PR TITLE
Erdős Problem 33

### PR DESCRIPTION
**Pull request by zhenningdavidliu**
PR for #207 - Erdos 33

### CODE REVIEW

**Comment by zhenningdavidliu** [comment]
First draft PR for Erdos 33. I plan on adding the current upper bound on the minimal value once I get some feedback on the first draft. (Also, apologies for the messy commit history, somehow messed it up)

File: FormalConjectures/ErdosProblems/33.lean [hunk 1]
```diff
@@ -0,0 +1,51 @@
...
+-/
+def AdditiveBasisCondition (A : Set ℕ) : Prop :=
+  ∀ (k : ℕ), ∃ (n : ℕ) (a : ℕ), a ∈ A ∧ k = a + n^2
+
+/-- Let `A ⊆ ℕ` be a set such that every integer can be written as `n^2 + a` for some `a` in `A` and `n ≥ 0`. What is the smallest possible value of `lim sup n → ∞ |A ∩ {1, …, N}| / N^(1/2) = 0`?
+-/
+@[category research open, AMS 11]
+theorem erdos_33 : IsLeast
+    { c : ℝ | ∃ (A : Set ℕ), AdditiveBasisCondition A ∧
+      Filter.atTop.limsup (fun N => (Set.bdd A N).card / (N : ℝ)^(1/2)) = c}
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/33.lean]: `(N : ℝ)^(1/2)` is using `Nat` division in the exponent, so this is actually `N^0`. You can use `√N` instead

File: FormalConjectures/ErdosProblems/33.lean [hunk 2]
```diff
@@ -0,0 +1,51 @@
...
+
+open Classical
+
+open scoped Finset
+
+namespace Erdos33
+
+/-- Given a set of natural numbers `A`, `Set.bdd A N` is the set `{1,...,N} ∩ A`-/
+private noncomputable def Set.bdd (A : Set ℕ) (N : ℕ) : Finset ℕ :=
+    Finset.Icc 1 N |>.filter (· ∈ A)
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/33.lean]: two space indents for `def`s 
```suggestion
  Finset.Icc 1 N |>.filter (· ∈ A)
```

File: FormalConjectures/ErdosProblems/33.lean [hunk 3]
```diff
@@ -0,0 +1,51 @@
...
+
+/-!
+# Erdős Problem 41
+
+*Reference:* [erdosproblems.com/33](https://www.erdosproblems.com/33)
+-/
+
+open Classical
+
+open scoped Finset
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/33.lean]: Currently this `open scoped Finset` is not used or needed so it can be removed. It does enable `#` notation for `Finset.card` however, so you can replace `(Set.bdd A N).card` with `#(Set.bdd A N)` if you prefer

File: FormalConjectures/ErdosProblems/33.lean (hunk 1 above)
Comment (zhenningdavidliu) [reply FormalConjectures/ErdosProblems/33.lean]: Oh interesting, does this mean that my formalisation in [Erdos 41](https://github.com/google-deepmind/formal-conjectures/blob/3369444aa88051f0211ecc14cab5290706b334e8/FormalConjectures/ErdosProblems/41.lean#L43-L46) has the same error?

Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/33.lean]: Indeed! Fixed in #637 :)

File: FormalConjectures/ErdosProblems/33.lean [hunk 4]
```diff
@@ -0,0 +1,70 @@
...
+  sorry
+
+/--
+Erdos observed that this value is finite and > 1.
+-/
+@[category research solved, AMS 11]
+theorem erdos_33_i :
+    1 ∈ lowerBounds { c : ℝ | ∃ (A : Set ℕ), AdditiveBasisCondition A ∧
+      Filter.atTop.limsup (fun N => (Set.bdd A N).card / (√N : ℝ)) = c}
+    := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/33.lean]: styling
```suggestion
      Filter.atTop.limsup (fun N => (Set.bdd A N).card / (√N : ℝ)) = c} := by
```

File: FormalConjectures/ErdosProblems/33.lean [hunk 5]
```diff
@@ -0,0 +1,70 @@
...
+-/
+def AdditiveBasisCondition (A : Set ℕ) : Prop :=
+  ∀ (k : ℕ), ∃ (n : ℕ) (a : ℕ), a ∈ A ∧ k = a + n^2
+
+/-- Let `A ⊆ ℕ` be a set such that every integer can be written as `n^2 + a` for some `a` in `A` and `n ≥ 0`. What is the smallest possible value of `lim sup n → ∞ |A ∩ {1, …, N}| / N^(1/2) = 0`?
+-/
+@[category research open, AMS 11]
+theorem erdos_33 : IsLeast
+    { c : ℝ | ∃ (A : Set ℕ), AdditiveBasisCondition A ∧
+      Filter.atTop.limsup (fun N => (Set.bdd A N).card / (√N : ℝ)) = c}
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/33.lean]: nit: I think you should be able to do without the type ascription and just write `√N` rather than `(√N : ℝ)`. Ditto below

File: FormalConjectures/ErdosProblems/33.lean [hunk 6]
```diff
@@ -0,0 +1,70 @@
...
+    := by
+  sorry
+
+/--
+The smallest possible value of `lim sup n → ∞ |A ∩ {1, …, N}| / N^(1/2) = 0` is at most `2φ^(5/2) ≈ 6.66`, with `φ` equal to the golden ratio. Proven by Wouter van Doorn.
+-/
+@[category research solved, AMS 11]
+theorem erdos_33_Wouter :
+    2 * (Real.rpow ((1 + √5) / 2 ) (5/2)) ∈ lowerBounds { c : ℝ | ∃ (A : Set ℕ), AdditiveBasisCondition A ∧
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/33.lean]: If you `open scoped goldenRatio` you can use `φ` here if you like. Or you can just `Real.goldenRatio`.

Comment (smmercuri) [inline FormalConjectures/ErdosProblems/33.lean]: Also `Real.rpow` isn't needed, you can use `^ ((5 : ℝ) / 2)`

**Comment by smmercuri** [comment]
Feel free to add yourself to `AUTHORS` if you haven't done so yet

File: FormalConjectures/ErdosProblems/33.lean (hunk 6 above)
Comment (zhenningdavidliu) [reply FormalConjectures/ErdosProblems/33.lean]: Would you be able to explain the difference between this case and the previous one where we had `N^(1/2)`? Is it true that in that case `N^((1 : ℝ) / 2)` still would not have worked?

Comment (smmercuri) [reply FormalConjectures/ErdosProblems/33.lean]: It is true that `N^((1 : ℝ) / 2)` would not have worked because `N : ℕ` and this does not have an rpow (I.e., there is no `Pow ℕ ℝ` instance). But if you coerce `N` as well then this would have worked: `(N : ℝ)^((1 : ℝ) / 2)`. Note that this is _the same_ as calling `Real.rpow N (1 / 2)`, see next para. Similarly `√N` is the same as writing `Real.sqrt N`, and handles the coercions automatically.

More generally, say `x : ℝ` and `n : ℕ`, then `x ^ n` is notation for the power function coming from the `Pow ℝ ℕ` instance. If `y : ℝ`, then `x ^ y` is notation for the power function coming from the [`Pow ℝ ℝ`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/SpecialFunctions/Pow/Real.html#Real.instPow) instance. You can see on that link that the underlying function is `Real.rpow`. Of course when you write `(1/2)` this gets automatically interpreted as `ℕ` so we're back to the first case. So you have two choices: (1) type ascript `x ^ ((1 : ℝ) / 2)`; (2) use the underlying function `Real.rpow` which will coerce for you because then it definitely knows which power function you mean. Both work, but (1) is much more idiomatic (in the same way as why we use `x | y` instead of `Dvd.dvd x y`).

Comment (zhenningdavidliu) [reply FormalConjectures/ErdosProblems/33.lean]: Thanks a lot for the detailed answer!

File: FormalConjectures/ErdosProblems/33.lean [hunk 7]
```diff
@@ -0,0 +1,70 @@
...
+open Classical
+open scoped goldenRatio
+
+namespace Erdos33
+
+/-- Given a set of natural numbers `A`, `Set.bdd A N` is the set `{1,...,N} ∩ A`-/
+private noncomputable def Set.bdd (A : Set ℕ) (N : ℕ) : Finset ℕ :=
+  Finset.Icc 1 N |>.filter (· ∈ A)
+
+/-- Let `A ⊆ ℕ` be a set such that every integer can be written as `n^2 + a` for some `a` in `A` and `n ≥ 0`. (Changed 'every large integer' to 'every integer' as for the statement these conditions are equivalent. Also, this was the formulation in the original paper `by Erdos.)
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/33.lean]: Typically we separate out comments/justifications for Formalisation choices away from docstrings as follows
```suggestion
/-- Let `A ⊆ ℕ` be a set such that every integer can be written as `n^2 + a` for some `a` in `A` and `n ≥ 0`. -/
-- Formalisation note: Changed 'every large integer' to 'every integer' as for the statement these 
-- conditions are equivalent. Also, this was the formulation in the original paper `by Erdos.
```

File: FormalConjectures/ErdosProblems/33.lean [hunk 8]
```diff
@@ -0,0 +1,70 @@
...
+-/
+def AdditiveBasisCondition (A : Set ℕ) : Prop :=
+  ∀ (k : ℕ), ∃ (n : ℕ) (a : ℕ), a ∈ A ∧ k = a + n^2
+
+/-- Let `A ⊆ ℕ` be a set such that every integer can be written as `n^2 + a` for some `a` in `A` and `n ≥ 0`. What is the smallest possible value of `lim sup n → ∞ |A ∩ {1, …, N}| / N^(1/2) = 0`?
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/33.lean]: to keep within 100 char line limit
```suggestion
/-- Let `A ⊆ ℕ` be a set such that every integer can be written as `n^2 + a` 
for some `a` in `A` and `n ≥ 0`. What is the smallest possible value of 
`lim sup n → ∞ |A ∩ {1, …, N}| / N^(1/2) = 0`?
```

File: FormalConjectures/ErdosProblems/33.lean [hunk 9]
```diff
@@ -0,0 +1,70 @@
...
+Erdos observed that this value is finite and > 1.
+-/
+@[category research solved, AMS 11]
+theorem erdos_33_i :
+    1 ∈ lowerBounds { c : ℝ | ∃ (A : Set ℕ), AdditiveBasisCondition A ∧
+      Filter.atTop.limsup (fun N => (Set.bdd A N).card / √N) = c} := by
+  sorry
+
+/--
+The smallest possible value of `lim sup n → ∞ |A ∩ {1, …, N}| / N^(1/2) = 0` is at most `2φ^(5/2) ≈ 6.66`, with `φ` equal to the golden ratio. Proven by Wouter van Doorn.
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/33.lean]:
```suggestion
The smallest possible value of `lim sup n → ∞ |A ∩ {1, …, N}| / N^(1/2) = 0` 
is at most `2φ^(5/2) ≈ 6.66`, with `φ` equal to the golden ratio. Proven by 
Wouter van Doorn.
```

File: FormalConjectures/ErdosProblems/33.lean [hunk 10]
```diff
@@ -0,0 +1,76 @@
...
+namespace Erdos33
+
+/-- Given a set of natural numbers `A`, `Set.bdd A N` is the set `{1,...,N} ∩ A`-/
+private noncomputable def Set.bdd (A : Set ℕ) (N : ℕ) : Finset ℕ :=
+  Finset.Icc 1 N |>.filter (· ∈ A)
+
+/-- Let `A ⊆ ℕ` be a set such that every integer can be written as `n^2 + a` for some `a` in `A` and `n ≥ 0`. -/
+-- Formalisation note: Changed 'every large integer' to 'every integer' as for the statement these 
+-- conditions are equivalent. Also, this was the formulation in the original paper `by Erdos.
+-/
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/33.lean]: final line char fix
```suggestion
/-- Let `A ⊆ ℕ` be a set such that every integer can be written as `n^2 + a` for some `a` in `A` 
and `n ≥ 0`. -/
-- Formalisation note: Changed 'every large integer' to 'every integer' as for the statement these 
-- conditions are equivalent. Also, this was the formulation in the original paper `by Erdos.
```

**Comment by smmercuri** [comment]
By the way, you can add 
```
"editor.rulers": [
        100
    ],
```
to `settings.json` in vscode to help you keep within 100 chars in the future if you like! Unlike mathlib, it's not a strict convention we follow here, but is always preferred for readability

**Comment by mo271** [comment]
> By the way, you can add
> 
> ```
> "editor.rulers": [
>         100
>     ],
> ```
> 
> to `settings.json` in vscode to help you keep within 100 chars in the future if you like! Unlike mathlib, it's not a strict convention we follow here, but is always preferred for readability

I think we already have that set for this repo, so the line should already be there, not need to add it globally?!
https://github.com/google-deepmind/formal-conjectures/blob/71257280583ea7ce7ee1dbf61d03b233fe7f8c76/.vscode/settings.json#L4

File: FormalConjectures/ErdosProblems/33.lean [hunk 11]
```diff
@@ -0,0 +1,76 @@
...
+    { c : ℝ | ∃ (A : Set ℕ), AdditiveBasisCondition A ∧
+      Filter.atTop.limsup (fun N => (Set.bdd A N).card / √N) = c}
+    answer(sorry) := by
+  sorry
+
+/--
+Erdos observed that this value is finite and > 1.
+-/
+@[category research solved, AMS 11]
+theorem erdos_33_i :
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/33.lean]: The naming convention for additional results is `erdos_*.variants.*`
```suggestion
theorem erdos_33.variants.one_mem_lowerBounds :
```

File: FormalConjectures/ErdosProblems/33.lean [hunk 12]
```diff
@@ -0,0 +1,76 @@
...
+      Filter.atTop.limsup (fun N => (Set.bdd A N).card / √N) = c} := by
+  sorry
+
+/--
+The smallest possible value of `lim sup n → ∞ |A ∩ {1, …, N}| / N^(1/2) = 0` 
+is at most `2φ^(5/2) ≈ 6.66`, with `φ` equal to the golden ratio. Proven by 
+Wouter van Doorn.
+-/
+@[category research solved, AMS 11]
+theorem erdos_33_Wouter :
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/33.lean]:
```suggestion
theorem erdos_33.variants.vanDoorn :
```

**Comment by smmercuri** [comment]
LGTM now after the final suggestions! Thank you!

**Review by smmercuri — APPROVED** [review]
